US06262089B1
b) (2E,4E)-(R)-1-[6-[(R)-2-Carboxy-pyrrolidin-1-yl]-2,5-dimethyl-6-oxo-hexa-2,4-dienoyl-pyrrolidine-2-carboxylic acid
Using General Procedure B with 1.14 g (2.09 mmol) (2E,4E)-(R)-1-[6-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2,5-dimethyl-6-oxo-hexa-2,4-dienoyl]-pyrrolidine-2-carboxylic acid benzyl ester and with dioxane as solvent afforded 127 mg (16%) of the title compound as a white solid. MS m/e (%): 365 (M+H+, 100).

reactant | (2E,4E)-(R)-1-[6-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2,5-dimethyl-6-oxo-hexa-2,4-dienoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 2.09 mmol, 1.14 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(\C(=C\C=C(\C(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)/C)\C)=O | C32H36N2O6
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-[(R)-2-Carboxy-pyrrolidin-1-yl]-2,5-dimethyl-6-oxo-hexa-2,4-dienoyl-pyrrolidine-2-carboxylic acid | 127 mg, 16% | C(=O)(O)[C@@H]1N(CCC1)C(C(=CC=C(C(=O)N1C(CCC1)C(=O)O)C)C)=O | C18H24N2O6
